US07220771B2
SYNTHESIS OF [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-(3-NITROPHENYL)CARBOXAMIDE
To a solution containing 3-nitroaniline (96 mg, 0.694 mmol) in pyridine (5 mL) was added 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (200 mg, 0.631 mmol). The reaction mixture was allowed to stir for 18 hours at ambient temperature. Water (30 mL) was then added and the resulting precipitate was filtered and dried to afford the title compound. This precipitate was taken on directly to the next step for deprotection.

reactant | 3-nitroaniline | 0.694 mmol, 96 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.631 mmol, 200 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | Water | 30 mL | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-(3-NITROPHENYL)CARBOXAMIDE | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C20H13FN4O3
